US09034866B2
To a solution of [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid methyl ester in MeOH (5 mL) was added 4 mol/L aqueous solution of LiOH (0.2 mL) and the reaction mixture was stirred at room temperature for 2 h. Then the mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, concentrated in vacuo, and triturated with EtOAc and hexane (1:1) to afford [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid (20 mg) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 12.66 (br, 1H), 8.61 (d, J=2.2 Hz, 1H), 8.46 (s, 1H), 7.88 (s, 1H), 7.28 (dd, J1=8.36 Hz, J2=2.2 Hz, 1H), 7.04 (d, J=8.4 Hz, 1H), 5.45 (s, 1H), 4.5 (m, 1H), 4.16 (m, 1H), 2.72 (m, 1H), 2.62 (m, 1H), 1.48 (s, 6H); LC-MS (ESI & APCI): 387.6 (M+1).

reactant | [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid methyl ester | COC(CC1COC2=C(C=3N=C(SC13)C(N)=O)C=C(C=C2)C#CC(C)(C)O)=O | C20H20N2O5S
reactant | LiOH | 0.2 mL | [Li+].[OH-]
solvent | MeOH | 5 mL | CO | CH4O
product | [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid | 20 mg | C(N)(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)CC(=O)O | C19H18N2O5S
